US05506256
B) N-Benzylaminocarbonyl-L-prolyl-L-proline benzyl ester
N-(t-Butoxycarbonyl)-L-prolyl-L-proline benzyl ester (3.60 g) was treated with 4N hydrochloric acid/1,4-dioxane and then reacted with benzylisocyanate (1.2 ml) as in Example 21-B) to give 2.98 g of the title compound as crystals.

reactant | N-(t-Butoxycarbonyl)-L-prolyl-L-proline benzyl ester | 3.60 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@H]1N(CCC1)C(=O)OC(C)(C)C)=O)=O | C22H30N2O5
reactant | hydrochloric acid 1,4-dioxane | 4N | Cl.O1CCOCC1
reactant | benzylisocyanate | 1.2 ml | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | N-Benzylaminocarbonyl-L-prolyl-L-proline benzyl ester | 2.98 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@H]1N(CCC1)C(=O)NCC1=CC=CC=C1)=O)=O | C25H29N3O4
